US06537994B2
4-{3-[2-(4-{2-[2-Chloro-4-(3-methyl-pyrazol-1-yl)-phenyl]-imidazo[4,5-b]pyridin-3-yl}-phenyl)-ethylamino]-2-hydroxy-propoxy}-phenol
(2S)-1-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-3-[(4-{2-[2-chloro-4-(3-methyl-1H-pyrazol-1-yl)phenyl]-3H-imidazo[4,5-b]pyridin-3-yl}phenethyl)amino]-2-propanol (0.18 g, 0.216 mmol) was reacted according to Procedure H (eluant: 10:1 going to 5:1 chloroform-methanol containing 1% ammonium hydroxide) to give the title compound (0.08 g, 0.134 mmol).

reactant | (2S)-1-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-3-[(4-{2-[2-chloro-4-(3-methyl-1H-pyrazol-1-yl)phenyl]-3H-imidazo[4,5-b]pyridin-3-yl}phenethyl)amino]-2-propanol | 0.216 mmol, 0.18 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(C=C2)N2C(=NC=3C2=NC=CC3)C3=C(C=C(C=C3)N3N=C(C=C3)C)Cl)O)C=C1 | C49H49ClN6O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-{3-[2-(4-{2-[2-Chloro-4-(3-methyl-pyrazol-1-yl)-phenyl]-imidazo[4,5-b]pyridin-3-yl}-phenyl)-ethylamino]-2-hydroxy-propoxy}-phenol | 0.134 mmol, 0.08 g | ClC1=C(C=CC(=C1)N1N=C(C=C1)C)C1=NC=2C(=NC=CC2)N1C1=CC=C(C=C1)CCNCC(COC1=CC=C(C=C1)O)O | C33H31ClN6O3
